US06384028B1
To a solution of N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-β-alanine (1.64 g) in ethyl acetate (16 ml) was added 4N HCl in ethyl acetate (9.37 ml) at 0° C., and the reaction mixture was stirred for 2 hours at room temperature. The precipitates were filtered, washed with ether and resolved in water, neutralized with saturated aqueous NaHCO3, desalted by using the resin of HP-20 eluting with isopropanol-H2O (1:1), then freeze-dried to give N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-β-alanine as a white powder (690 mg).

reactant | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-β-alanine | 1.64 g | C(C)(C)(C)OC(=O)N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)NCCC(=O)O | C22H35N3O6
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 16 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 9.37 ml | C(C)(=O)OCC | C4H8O2
product | N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-β-alanine | 690 mg | N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)NCCC(=O)O | C17H27N3O4
